US07659267B2
2-{[2-(Methoxy)benzoyl]thio}benzoic acid
Thiosalicylic acid (1.38 g, 9.0 mmol) was suspended in tetrahydrofuran (10 ml). While stirring under ice cooling, pyridine (1.77 g, 22 mmol) and then a tetrahydrofuran solution (5 ml) of 2-methoxybenzoyl chloride (1.68 g, 9.9 mmol) were dropwise added to the suspension. After the reaction mixture was stirred for 15 hours, the mixture was diluted with water and 6N hydrochloric acid was added thereto to make its liquid property acidic. The mixture was extracted (50 ml×2) with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was recrystallized from tetrahydrofuran-isopropyl ether to give the title compound (2.08 g, 73%).

reactant | Thiosalicylic acid | 9.0 mmol, 1.38 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | pyridine | 22 mmol, 1.77 g | N1=CC=CC=C1 | C5H5N
reactant | 2-methoxybenzoyl chloride | 9.9 mmol, 1.68 g | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-{[2-(Methoxy)benzoyl]thio}benzoic acid | 2.08 g, 73% | COC1=C(C(=O)SC2=C(C(=O)O)C=CC=C2)C=CC=C1 | C15H12O4S
